US08809267B2
8-Chloro-2-ethylsulfanyl-quinolin-4-ol (10.26 g, 42.8 mmol) was dissolved in anhydrous dimethylformamide (100 mL). Cesium carbonate (27.9 g, 85.6 mmol) was added, followed by p-methoxybenzyl chloride (8.0 g, 51.36 mmol). The mixture was then heated at 65° C. for 2 hours and then cooled to room temperature and diluted with ethyl acetate. The diluted reaction mixture was washed with brine 2 times, dried over Mg2SO4 and concentrated in vacuo. The residue was recrystallized from EtOAc/Hexanes to afford 8-chloro-2-ethylsulfanyl-4-(4-methoxy-benzyloxy)-quinoline (11.14 g, 67% yield). LCMS found 360.21 [M+H]+.

reactant | 8-Chloro-2-ethylsulfanyl-quinolin-4-ol | 42.8 mmol, 10.26 g | ClC=1C=CC=C2C(=CC(=NC12)SCC)O | C11H10ClNOS
reactant | Cesium carbonate | 85.6 mmol, 27.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | p-methoxybenzyl chloride | 51.36 mmol, 8.0 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-chloro-2-ethylsulfanyl-4-(4-methoxy-benzyloxy)-quinoline | 11.14 g, 67% yield | ClC=1C=CC=C2C(=CC(=NC12)SCC)OCC1=CC=C(C=C1)OC | C19H18ClNO2S
